US08293897B2
Step 4) (1-(methylsulfonyloxy)cyclopropyl)methyl methanesulfonate
To a mixture of 1-(hydroxymethyl)cyclopropanol (100 mg, 1.14 mmol) and TEA (202 mg, 1.82 mmol, Shantou Xilong chemical factory) in 20 mL of dry CH2Cl2 under N2, was added MsCl (156 mg, 1.32 mmol, Shanghai Haiqu chemical Ltd.) dropwise via a syringe at −10° C. After stirring for 4 hrs at −10° C., the mixture was washed with ice-water and extracted with CH2Cl2 (30 mL×3). The combined organic phases were dried over Na2SO4 and concentrated in vacuo to give the desired compound as pale yellow oil (139 mg, 50%).

reactant | 1-(hydroxymethyl)cyclopropanol | 1.14 mmol, 100 mg | OCC1(CC1)O | C4H8O2
reactant | MsCl | 1.32 mmol, 156 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (1-(methylsulfonyloxy)cyclopropyl)methyl methanesulfonate | 139 mg, 50% | CS(=O)(=O)OCC1(CC1)OS(=O)(=O)C | C6H12O6S2
